US09145392B2
5-Bromo-6-{4-[1-(2-dimethylamino-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine (“67”)
The title compound was prepared in an analogous manner as 5-Bromo-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine using 2-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(piperidin-4-yl)-1H-imidazol-1-yl)-N,N-dimethylethanamine instead of 4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1h-imidazol-2-yl]-piperidine. LC-MS: (M+1=556, obsd.=556).

reactant | 5-Bromo-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | BrC=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C)N | C20H19BrF4N6
reactant | 2-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(piperidin-4-yl)-1H-imidazol-1-yl)-N,N-dimethylethanamine | FC1=C(C=C(C=C1)C=1N=C(N(C1)CCN(C)C)C1CCNCC1)C(F)(F)F | C19H24F4N4
product | 5-Bromo-6-{4-[1-(2-dimethylamino-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | BrC=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCN(C)C)N | C23H26BrF4N7
